US09302988B2
Step 5: 1-Benzyl-3-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid (ACI-01)
Ethyl 1-benzyl-3-(4-chlorophenyl)-1H-pyrrole-2-carboxylate (8 g, 23.54 mmol) was dissolved in MeOH (33.4 mL) and THF (33.4 mL) followed by addition of aqueous 6M NaOH (33.4 mL, 200 mmol) and the reaction mixture was stirred at reflux for 18 h. The volatile solvents were evaporated under reduced pressure. The remaining aqueous phase was acidified with aqueous 1M HCl until pH=4 and a solid precipitated. The solid was filtered off and washed with cold H2O. The collected solid was dissolved in EtOAc, dried over Na2SO4, filtered and the solution evaporated to dryness to give 6.69 g (91%) of ACI-01.

reactant | Ethyl 1-benzyl-3-(4-chlorophenyl)-1H-pyrrole-2-carboxylate | 23.54 mmol, 8 g | C(C1=CC=CC=C1)N1C(=C(C=C1)C1=CC=C(C=C1)Cl)C(=O)OCC | C20H18ClNO2
reactant | THF | 33.4 mL | C1CCOC1 | C4H8O
reactant | NaOH | 200 mmol, 6M, 33.4 mL | [OH-].[Na+]
solvent | MeOH | 33.4 mL | CO | CH4O
product | 1-Benzyl-3-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C=C1)C1=CC=C(C=C1)Cl)C(=O)O | C18H14ClNO2
